US06353111B1
A solution of (E)-4-cyclopentyl-2-(3,4-difluoro-phenyl)-but-2-enoic acid methyl ester (0.80 g, 2.85 mmol) in ethanol (14 mL) was treated with a 1N aqueous sodium hydroxide solution (6 mL). The solution was heated at 40° C. for 15 h, at which time, thin layer chromatography analysis of the mixture indicated the absence of starting material. The reaction mixture was then concentrated in vacuo to remove ethanol, and the residue was diluted with water (30 mL) and extracted with diethyl ether (1×50 mL) to remove any neutral impurities. The aqueous layer was acidified with a 1N aqueous hydrochloric acid solution. The resulting acid was extracted into ethyl acetate (2×50 mL). The combined organic layers were washed with a saturated aqueous sodium chloride solution (1×80 mL), dried over anhydrous magnesium sulfate, filtered, and concentrated in vacuo to afford (E)-4-cyclopentyl-2-(3,4-difluoro-phenyl)-but-2-enoic acid (0.65 g, 86%) as a colorless oil: EI-HRMS m/e calcd for C15H16F2O2 (M+H)+ 267.1196, found 267.1195.

reactant | (E)-4-cyclopentyl-2-(3,4-difluoro-phenyl)-but-2-enoic acid methyl ester | 2.85 mmol, 0.80 g | COC(\C(=C\CC1CCCC1)\C1=CC(=C(C=C1)F)F)=O | C16H18F2O2
reactant | sodium hydroxide | 1N, 6 mL | [OH-].[Na+]
solvent | ethanol | 14 mL | C(C)O | C2H6O
product | (E)-4-cyclopentyl-2-(3,4-difluoro-phenyl)-but-2-enoic acid | 0.65 g, 86% | C1(CCCC1)C/C=C(/C(=O)O)\C1=CC(=C(C=C1)F)F | C15H16F2O2
